US05925627
2-Benzyloxy-5-(trifluoromethoxy)benzene
Benzyl bromide (66.17 ml, 95.35 g, 0.56 mol) was added to a mixture of 4-(trifluoromethoxy)phenol (90.26 g, 0.51 mol) and potassium carbonate (140.97 g, 1.2 mol) in dimethylformamide (160 ml) and the mixture was stirred at room temperature for 72 hours. The mixture was poured into water (1.5 l) and extracted with ethyl acetate (3×500 ml). The combined organic fractions were washed with aqueous sodium carbonate (saturated, 500 ml), dried (MgSO4) and the solvent was evaporated under reduced pressure to give the title compound as a colorless solid (133.5 g, 99%). 1H NMR (360 MHz, CDCl3) δ 7.39 (5H, m), 7.14 (2H, d, J=9.0 Hz), 6.95 (2H, d, J=9.0 Hz), and 5.05 (2H, s).

reactant | Benzyl bromide | 0.56 mol, 66.17 ml, 95.35 g | C(C1=CC=CC=C1)Br | C7H7Br
reactant | 4-(trifluoromethoxy)phenol | 0.51 mol, 90.26 g | FC(OC1=CC=C(C=C1)O)(F)F | C7H5F3O2
reactant | potassium carbonate | 1.2 mol, 140.97 g | C([O-])([O-])=O.[K+].[K+]
reactant | water | 1.5 l | O | H2O
solvent | dimethylformamide | 160 ml | CN(C=O)C | C3H7NO
product | 2-Benzyloxy-5-(trifluoromethoxy)benzene | 133.5 g, 99% | C(C1=CC=CC=C1)OC1=CC=C(C=C1)OC(F)(F)F | C14H11F3O2
